US04094982
N-Acetyl 5-nitro-3-pyridinesulfonamide
To 10 ml. of a 10% aqueous sodium carbonate solution of 0.5g. of 5-nitro-3-pyridinesulfonamide was added dropwise 1g. of acetyl chloride at 0° C. The mixture was stirred at room temperature for 2 hours and extracted with ethyl acetate. The extract was purified by silica gel chromatography to give 0.26g. of the desired product. m.p. 176° - 178° C.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-nitro-3-pyridinesulfonamide | [N+](=O)([O-])C=1C=C(C=NC1)S(=O)(=O)N | C5H5N3O4S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-Acetyl 5-nitro-3-pyridinesulfonamide | C(C)(=O)NS(=O)(=O)C=1C=NC=C(C1)[N+](=O)[O-] | C7H7N3O5S
